US07211668B2
N-{2-[5-(4-Chloro-2-nitrophenyl)-1,3,4-thiadiazole-2-sulfonylamino]-ethyl}-N-{[2-N-(4-methoxybenzyloxycarbonyl)-guanin-9-yl]-acetyl}-glycine ethyl ester
The title compound was synthesized by the reaction of N-{2-[5-(4-chloro-2-nitrophenyl)-1,3,4-thiadiazole-2-sulfonylamino]-ethyl}-glycine ethyl ester with [2-N-(4-methoxybenzyloxycarbonyl)-guanin-9-yl]-acetic acid as per the procedure of example 13. 1H NMR (500 MHz; DMSO-d6) δ 11.39 (brs, 0.45H), 11.36 (brs, 0.55H), 9.20 (brs, 1H), 8.39 (s, 1H), 8.01 (d, 1H), 7.95 (d, 0.55H), 7.92 (d, 0.45H), 7.82 (s, 0.55H), 7.79 (s, 0.45H), 7.37 (d, 2H), 6.95 (d, 2H), 5.17 (s, 2H), 5.13 (s, 1.1H), 4.93 (s, 0.9H), 4.45 (s, 0.9H), 4.21 (q, 0.9H), 4.08 (s, 1.1H), 4.07 (q, 1.1H), 3.76 (s, 3H), 3.66 (t, 1.1H), 3.49 (t, 1.1H), 3.43 (t, 0.9H), 3.28 (t, 0.9H), 1.25 (t, 1.35H), 1.16 (t, 1.65H).

reactant | N-{2-[5-(4-chloro-2-nitrophenyl)-1,3,4-thiadiazole-2-sulfonylamino]-ethyl}-glycine ethyl ester | C(C)OC(CNCCNS(=O)(=O)C=1SC(=NN1)C1=C(C=C(C=C1)Cl)[N+](=O)[O-])=O | C14H16ClN5O6S2
reactant | [2-N-(4-methoxybenzyloxycarbonyl)-guanin-9-yl]-acetic acid | COC1=CC=C(COC(=O)NC=2NC(C=3N=CN(C3N2)CC(=O)O)=O)C=C1 | C16H15N5O6
product | N-{2-[5-(4-Chloro-2-nitrophenyl)-1,3,4-thiadiazole-2-sulfonylamino]-ethyl}-N-{[2-N-(4-methoxybenzyloxycarbonyl)-guanin-9-yl]-acetyl}-glycine ethyl ester | C(C)OC(CN(C(CN1C=2N=C(NC(C2N=C1)=O)NC(=O)OCC1=CC=C(C=C1)OC)=O)CCNS(=O)(=O)C=1SC(=NN1)C1=C(C=C(C=C1)Cl)[N+](=O)[O-])=O | C30H29ClN10O11S2
